US04247700
2-[(4-Cyclohexylmethyl- 1-piperidyl)methyl]propenenitrile
Cyanoacetic acid (0.9 g., 0.01 mole) was dissolved in 6 ml. of dioxane and 1 ml. of water. In a 15 minute period, 4-cyclohexylmethylpiperidine (1.8 g., 0.01 mole) was added. After an additional 15 minutes, 37% aqueous formaldehyde (1.8 g., 0.02 mole) was dripped in over a two minute period. The reaction mixture was agitated twelve hours at 20°-25° C., extracted with 200 ml. of ether, water washed, dried over anhydrous sodium sulfate, filtered and stripped. A yield of 1.2 g. of high purity product was obtained as a residue.

reactant | Cyanoacetic acid | 0.01 mole, 0.9 g | C(#N)CC(=O)O | C3H3NO2
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | 4-cyclohexylmethylpiperidine | 0.01 mole, 1.8 g | C1(CCCCC1)CC1CCNCC1 | C12H23N
reactant | formaldehyde | 0.02 mole, 1.8 g | C=O | CH2O
solvent | water | O | H2O
product | 2-[(4-Cyclohexylmethyl- 1-piperidyl)methyl]propenenitrile | C1(CCCCC1)CC1CCN(CC1)CC(C#N)=C | C16H26N2
